US09079876B2
Step D. Preparation of Compound 5-(methylthio)-2-(5-phenyl-1H-imidazol-1-yl)pyridine (Compound 1 D)
N-benzal-5-(methylthio)pyridine-2-amine (200 g), tosylmethyl isocyanide (255 g), potassium carbonate (255 g), methanol (3 L) and dimethoxyethane (2 L) were refluxed overnight. The reactant was cooled to room temperature, 10 L water was added and extracted with ethyl acetate. The organic phase was washed with saturated NaCl solution, and dried with anhydrous sodium sulfate. The solvent was removed by filtration and reducing pressure. The crude product was purified by column chromatography to obtain the brown solid target compound (118 g, 50% yield). 1H-NMR (300 MHz, CDCl3): δ 2.52 (3H, s), 6.74-6.77 (1H, dd), 7.18-7.22 (3H, m), 7.30-7.33 (3H, m), 7.45-7.48 (1H, dd), 8.05-8.05 (1H, d), 8.38-8.39 (1H, d). LC-MS m/z: 268 [M++1].

reactant | N-benzal-5-(methylthio)pyridine-2-amine | 200 g | C(C1=CC=CC=C1)=NC1=NC=C(C=C1)SC | C13H12N2S
reactant | tosylmethyl isocyanide | 255 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium carbonate | 255 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 3 L | CO | CH4O
solvent | water | 10 L | O | H2O
solvent | dimethoxyethane | 2 L | C(OC)COC | C4H10O2
product | 5-(methylthio)-2-(5-phenyl-1H-imidazol-1-yl)pyridine | 118 g, 50% yield | CSC=1C=CC(=NC1)N1C=NC=C1C1=CC=CC=C1 | C15H13N3S
